US04845128
N-([(4-bromo-3-methylphenyl)amino]carbonyl)-4-methylbenzenesulfonamide
A solution of 5.58 g of 4-bromo-3-methylaniline in 20 ml of toluene and 5 ml of methylene chloride was added to a solution of 5.91 g of p-toluenesulfonyl isocyanate in 50 ml of toluene and 10 ml of methylene chloride under a nitrogen atmosphere. The mixture was stirred overnight and filtered, providing 9.19 g of the title product, m.p. 178°-180° C.

reactant | 4-bromo-3-methylaniline | 5.58 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | p-toluenesulfonyl isocyanate | 5.91 g | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-([(4-bromo-3-methylphenyl)amino]carbonyl)-4-methylbenzenesulfonamide | 9.19 g | BrC1=C(C=C(C=C1)NC(=O)NS(=O)(=O)C1=CC=C(C=C1)C)C | C15H15BrN2O3S
